US07449477B2
7-(3-Difluoromethylphenyl)-isoquinoline-5-sulfonic acid {2-[3-(4-nitro-phenyl)-propylamino]-ethyl}-amide, dihydrochloride salt
Dissolve 7-(3-Difluoromethylphenyl)-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide (0.060 g, 0.16 mmol) in a mixture of dichloromethane and methanol (5:1, 15 mL). To the solution add 3-(4-nitrophenyl)-propionaldehyde (0.043 g, 0.24 mmol) as a solution in dichloromethane and stir overnight. Add sodium borohydride (0.025 g, 0.67 mmol). Evaporate the solvent and purify the residue by silica gel chromatography to give the free base of the desired compound (0.042 g, 48% yield): 1H NMR (CDCl3/CD3OD): δ9.40 (s, 1H), 8.70 (m, 2H), 8.40 (m, 2H), 8.10 (m, 2H), 7.85 (m, 2H), 7.62 (m, 2H), 7.26 (m, 2H), 6.73 (t, J=52.1 Hz, 1H), 3.00 (m, 2H), 2.64 (m, 4H), 2.42 (t, J=7.0 Hz, 2H), 1.67 (m, 2H). ESIMS: m/z 541 (M+H)+. Form the dihydrochloride salt by suspending the free base in ethyl acetate, cooling to 0° C., and adding 4M HCl in 1,4-dioxane dropwise. Filter the precipitate and wash with dichloromethane then dry in vacuum to give the desired compound.

reactant | 7-(3-Difluoromethylphenyl)-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide | 0.16 mmol, 0.060 g | NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC(=CC=C1)C(F)F | C18H17F2N3O2S
reactant | 3-(4-nitrophenyl)-propionaldehyde | 0.24 mmol, 0.043 g | [N+](=O)([O-])C1=CC=C(C=C1)CCC=O | C9H9NO3
reactant | sodium borohydride | 0.67 mmol, 0.025 g | [BH4-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 15 mL | CO | CH4O
product | 7-(3-Difluoromethylphenyl)-isoquinoline-5-sulfonic acid {2-[3-(4-nitro-phenyl)-propylamino]-ethyl}-amide, dihydrochloride salt | 0.042 g, 48% yield | Cl.Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC(=CC=C1)C(F)F | InChI=1S/C27H26F2N4O4S.2ClH/c28-27(29)21-5-1-4-20(15-21)22-16-23-18-31-12-10-25(23)26(17-22)38(36,37)32-14-13-30-11-2-3-19-6-8-24(9-7-19)33(34)35;;/h1,4-10,12,15-18,27,30,32H,2-3,11,13-14H2;2*1H
